2192-07-13 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2192-7-13**] 04:56 AM
   - admitted to ICU
   - gave metoprolol 5 mg IV x 2 then dilt 10 IV x 1 for HR control
   - bolused 1 L for SBP in mid-80s given CHF
   - held on further diuresis given low SBP
   - placed RIJ
   - started levophed gtt for SBP<80 with CVP 11-15
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-7-12**] 08:04 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2192-7-12**] 07:03 PM
   Furosemide (Lasix) - [**2192-7-12**] 08:04 PM
   Diltiazem - [**2192-7-12**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-13**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 111 (98 - 134) bpm
   BP: 104/47(61) {70/25(31) - 132/58(67)} mmHg
   RR: 22 (20 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,612 mL
                                                                    564 mL
   PO:
             TF:
   IVF:
                                                                    612 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                    375 mL
                                                                    335 mL
   Urine:
                                                                    375 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,237 mL
                                                                    229 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: 7.27/65/74/27/0
   PaO2 / FiO2: 106
   Physical Examination
   VITAL SIGNS: T 100.2  HR 130  BP 132/48  RR 24   O2 89% 4 L NC
   GEN: elderly obese female with facemask on, talking in full sentences
   HEENT: anicteric, EOMI, OP - no exudate, no erythema, no cervical LAD,
   unable to assess JVP due to habitus
   CHEST: scattered wheezes, decreased BS bilaterally at bases
   CV: irreg irreg, no m/r/g
   ABD: NDNT, soft, obese
   EXT: [**1-20**]+ pitting edema to shins
   NEURO: A&O x name, hospital, DOB
   DERM: no rashes noted
   Labs / Radiology
   264 K/uL
   8.8 g/dL
   98 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.7 mEq/L
   14 mg/dL
   108 mEq/L
   145 mEq/L
   29.9 %
   24.6 K/uL
        [image002.jpg]
                             [**2192-7-13**]  03:31 AM
                             [**2192-7-13**]  03:35 AM
   WBC
   24.6
   Hct
   29.9
   Plt
   264
   Cr
   1.0
   TropT
   0.02
   TCO2
   31
   Glucose
   112
   98
   Other labs: CK / CKMB / Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia.
   .
   # Sepis secondary to Pneumonia: She meets SIRS criteria with
   leukocytosis, tachycardia, and tachypnea. No hypotension noted in ED.
   Most likely infectious etiology is multifocal pneumonia seen on both
   CXR and CTA.  Pt reports subjective fevers at home, low grade temp on
   admission. Wheezes on exam and extensive smoking history.  Also needs
   rate control for improved oxygenation. Source could also be UTI
   - sputum culture
   - continue O2 supplementation to keep O2>93%
   - ceftriaxone and levofloxacin (given allergy to azithromycin) x 5 days
   for CAP in ICU with low pseudomonas risk, will not start vancomycin as
   low risk for MRSA given no recent hospitalizations in 6 months
   - f/u final CXR and CTA reads
   - trend fever curve
   - trend leukocytosis
   - albuterol / ipratropium nebs standing
   - send legionella
   .
   # Atrial fibrillation: on coumadin, INR target [**2-21**] and currently
   supratherapeutic
   - daily INR
   - hold coumadin
   - metoprolol 5 mg IV x 1 now as HR 120s-130s, will need rate control
   - consider digoxin
   .
   # CHF, diastolic: TTE last in [**2190**] with diastolic [**Last Name (LF) 7299**], [**First Name3 (LF) **] 55%.
   1+ bilateral pedal edema, increased recently
   - daily wts
   - IV lasix x 1 now
   - add on BNP
   - TTE
   .
   # ? new RBBB: not seen on previous EKGs at [**Hospital1 5**] from [**2190**]
   - obtain old EKG from PCP
   [**Name Initial (PRE) **] echo
   .
   # Hypertension: currently normotensive
   - continue amlodipine, lisinopril
   .
   # Depression:
   - continue cymbalta
   .
   # Seizure disorder:
   - seizure precautions
   - continue keppra
   .
   # Recurrent UTIs: UA contaminated with epis in ED
   - repeat UA
   - f/u UCx
   .
   # Hypercholesterolemia:
   - continue simvastatin
   .
   # Seborrheic Dermatitis:
   - steroid cream
   .
   FEN: no IVFs / replete lytes prn / NPO now
   PPX: supratherapeutic, bowel regimen, home PPI [**Hospital1 **]
   ACCESS: PIVs
   CODE STATUS: DNR/DNI (confirmed with husband)
   EMERGENCY CONTACT:
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-7-12**] 05:37 PM
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-07-13 11:20:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women, baseline wheelchair bound with mild dementia.  Admitted
   with PNA, respiratory distress.  Overnight became hypotensive.
   required fluid boluses
   24 Hour Events:
 MULTI LUMEN - START [**2192-7-13**] 04:56 AM
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-7-12**] 08:04 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2192-7-12**] 07:03 PM
   Furosemide (Lasix) - [**2192-7-12**] 08:04 PM
   Diltiazem - [**2192-7-13**] 08:00 AM
   Morphine Sulfate - [**2192-7-13**] 08:28 AM
   Other medications:
   senna
   levoflox
   lyrica
   phenylephrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-13**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 116 (98 - 134) bpm
   BP: 108/42(58) {70/21(31) - 132/58(67)} mmHg
   RR: 17 (17 - 25) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  2,612 mL
                                                                  1,162 mL
   PO:
   TF:
   IVF:
                                                                    612 mL
                                                                  1,162 mL
   Blood products:
   Total out:
                                                                    375 mL
                                                                    470 mL
   Urine:
                                                                    375 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,237 mL
                                                                    692 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 88%
   ABG: 7.27/65/74/27/0
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: mild distres
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : coarse b/l, Wheezes :
   scattered expiratory wheezes)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): name and place, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   264 K/uL
   98 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.7 mEq/L
   14 mg/dL
   108 mEq/L
   145 mEq/L
   29.9 %
   24.6 K/uL
        [image002.jpg]
                             [**2192-7-13**]  03:31 AM
                             [**2192-7-13**]  03:35 AM
   WBC
   24.6
   Hct
   29.9
   Plt
   264
   Cr
   1.0
   TropT
   0.02
   TCO2
   31
   Glucose
   112
   98
   Other labs: PT / PTT / INR:56.0/150.0/6.3, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:1.8
   mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: BNP 3784
   Assessment and Plan
   Respiratory distress:  Likely has pulmonary edema in setting of
   diastolic heart failure
   community acquired PNA:  continue CTX and levoflox
   acute on chronic diastolic heart failure:  will need to control heart
   rate but will try and get her diuresed a bit before starting likely a
   dilt drip.
   Load on digoxin in the mean time.  will get TEE
   Rapid AF:  is still very tachy after some diuresis, will start dilt
   drip
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2192-07-14 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2192-7-13**] 01:59 PM
   - dilt drip started
   - dig started
   - neo weaned
   - diuresed w/ 80mg IV lasix x 1
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-7-13**] 09:56 PM
   Infusions:
   Diltiazem - 2 mg/hour
   Other ICU medications:
   Diltiazem - [**2192-7-13**] 08:00 AM
   Morphine Sulfate - [**2192-7-13**] 08:28 AM
   Furosemide (Lasix) - [**2192-7-13**] 11:45 AM
   Pantoprazole (Protonix) - [**2192-7-13**] 08:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-14**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 96 (73 - 129) bpm
   BP: 99/76(80) {94/21(44) - 135/76(80)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
    CVP: 12 (6 - 20)mmHg
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  1,573 mL
                                                                    148 mL
   PO:
   TF:
   IVF:
                                                                  1,573 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    370 mL
   Urine:
                                                                  3,130 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,557 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   GEN: elderly obese female with facemask on, talking in full sentences
   HEENT: anicteric, EOMI, OP - no exudate, no erythema, no cervical LAD,
   unable to assess JVP due to habitus
   CHEST: scattered wheezes, decreased BS bilaterally at bases
   CV: irreg irreg, no m/r/g
   ABD: NDNT, soft, obese
   EXT: [**1-20**]+ pitting edema to shins
   NEURO: A&O x name, hospital, DOB
   DERM: no rashes noted
   Labs / Radiology
   304 K/uL
   9.1 g/dL
   121 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.7 mEq/L
   14 mg/dL
   104 mEq/L
   143 mEq/L
   29.1 %
   21.8 K/uL
        [image002.jpg]
                             [**2192-7-13**]  03:31 AM
                             [**2192-7-13**]  03:35 AM
                             [**2192-7-13**]  04:50 PM
                             [**2192-7-14**]  03:42 AM
   WBC
   24.6
   21.8
   Hct
   29.9
   29.1
   Plt
   264
   304
   Cr
   1.0
   0.9
   0.9
   TropT
   0.02
   TCO2
   31
   Glucose
   112
   98
   114
   121
   Other labs: PT / PTT / INR:47.7/74.4/5.2, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia.
   # Sepis secondary to Pneumonia:
   -f/u final sputum culture
gram stain with GPC/GPR
   -f/u blood culture
neg to date
   -continue ceftriaxone and levofloxacin x 8 days
   -standing nebs
increase frequency
   - off neosynephrine
   -f/u legionella
   # Atrial fibrillation / diastolic CHF:
   -dig load
start daily dose tomorrow
   -diurese w/ IV lasix
goal neg 500-1L
   -[**Hospital1 **] lytes
   - dilt drip
titrate HR to <90, develops rate-related RBBB-now off as
   started po diltiazem 30 mg qid
   -f/u echo
not done yet
   # ? new RBBB: not seen on previous EKGs at [**Hospital1 5**] from [**2190**]
   - obtain old EKG from PCP
   [**Name Initial (PRE) **] echo
   # Depression:
   - continue cymbalta
   # Seizure disorder:
   - seizure precautions
   - continue keppra
   # Recurrent UTIs: UA contaminated with epis in ED
   - repeat UA
culture negative
   - f/u UCx
   # Hypercholesterolemia:
   - continue simvastatin
   # Seborrheic Dermatitis:
   - steroid cream
   FEN: no IVFs / replete lytes prn / NPO now
   PPX: supratherapeutic, bowel regimen, home PPI [**Hospital1 **]
   ACCESS: PIVs
   CODE STATUS: DNI (confirmed with husband)- okay to resuscitate
   EMERGENCY CONTACT:
   DISPOSITION: ICU pending resolution
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:ICU

2192-07-14 10:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2192-7-13**] 01:59 PM
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-7-13**] 09:56 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-7-13**] 11:45 AM
   Pantoprazole (Protonix) - [**2192-7-13**] 08:56 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-14**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 89 (73 - 129) bpm
   BP: 133/44(66) {94/32(44) - 137/76(80)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
   CVP: 5 (5 - 20)mmHg
   Mixed Venous O2% Sat: 78 - 78
                                Total In:
                                                                  1,573 mL
                                                                    334 mL
   PO:
                                100 mL
   TF:
   IVF:
                                                                  1,573 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                    485 mL
   Urine:
                                                                  3,130 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,557 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 88%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   304 K/uL
   121 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.7 mEq/L
   14 mg/dL
   104 mEq/L
   143 mEq/L
   29.1 %
   21.8 K/uL
        [image002.jpg]
                             [**2192-7-13**]  03:31 AM
                             [**2192-7-13**]  03:35 AM
                             [**2192-7-13**]  04:50 PM
                             [**2192-7-14**]  03:42 AM
   WBC
   24.6
   21.8
   Hct
   29.9
   29.1
   Plt
   264
   304
   Cr
   1.0
   0.9
   0.9
   TropT
   0.02
   TCO2
   31
   Glucose
   112
   98
   114
   121
   Other labs: PT / PTT / INR:47.7/74.4/5.2, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia.
   # Sepis secondary to Pneumonia:
   -f/u final sputum culture
   -f/u blood culture
   -continue ceftriaxone and levofloxacin x 8 days
   -standing nebs
   -send CVO2
   -f/u legionella
   # Atrial fibrillation / diastolic CHF:
   -dig load
   -diurese w/ IV lasix
   -[**Hospital1 **] lytes
   -start dilt drip
   -f/u echo
   # ? new RBBB: not seen on previous EKGs at [**Hospital1 5**] from [**2190**]
   - obtain old EKG from PCP
   [**Name Initial (PRE) **] echo
   # Depression:
   - continue cymbalta
   # Seizure disorder:
   - seizure precautions
   - continue keppra
   # Recurrent UTIs: UA contaminated with epis in ED
   - repeat UA
   - f/u UCx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-07-15 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -off dilt gtt, tolerated po dilt and continuing to load digoxin.  Will
   not change dilt dose until dig load completed. HR 90-100. Has
   rate-related RBBB
   -Off neo since 5 am with stable BP
   -O2 increased slightly to 60% FiO2--O2 sat [**Month (only) 453**] when pt is on side.
   Able to titrate down to 50%.
   -Given 1 dose of lasix 60 mg IV in the am. PM lytes with contraction,
   did not give additional dose
   -Given zyprexa 2.5 mg last night for trying to remove mask and
   confusion
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-7-14**] 08:15 PM
   Ceftriaxone - [**2192-7-14**] 10:16 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-7-14**] 11:17 AM
   Pantoprazole (Protonix) - [**2192-7-14**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-15**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.7
C (96.3
   HR: 83 (83 - 99) bpm
   BP: 124/51(67) {105/36(57) - 145/107(111)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
    CVP: 12 (3 - 12)mmHg
   Total In:
                                                                  1,128 mL
                                                                    189 mL
   PO:
                                                                    560 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    568 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,433 mL
                                                                    180 mL
   Urine:
                                                                  1,433 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -305 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Extremities: Right: 1+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   8.1 g/dL
   97 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   13 mg/dL
   103 mEq/L
   143 mEq/L
   25.7 %
   14.9 K/uL
        [image002.jpg]
                             [**2192-7-13**]  03:31 AM
                             [**2192-7-13**]  03:35 AM
                             [**2192-7-13**]  04:50 PM
                             [**2192-7-14**]  03:42 AM
                             [**2192-7-14**]  04:53 PM
                             [**2192-7-15**]  04:59 AM
   WBC
   24.6
   21.8
   14.9
   Hct
   29.9
   29.1
   25.7
   Plt
   [**Telephone/Fax (3) 7365**]
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   TropT
   0.02
   TCO2
   31
   Glucose
   112
   98
   114
   121
   97
   Other labs: PT / PTT / INR:26.3/74.4/2.5, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia.
   # Sepis secondary to Pneumonia:
   -f/u final sputum culture
gram stain with GPC/GPR but culture with OP
   flora
   -f/u blood culture
neg to date
   -continue ceftriaxone and levofloxacin x 8 days ([**7-19**] is last day)
   -standing nebs
increase frequency
   - off neosynephrine X 24 hours
   -Neg urine legionella Ag
   -CXR with increasing effusion and RML infiltrate
diurese 500 to 1 L
   with 80 IV Lasix X 1
   -Goal O2 88-92%
   # Atrial fibrillation / diastolic CHF:
   -dig load completed, starts daily dose today
   -diurese w/ IV lasix
goal neg 500-1L
   -[**Hospital1 **] lytes
   - off dilt gtt, doing well on po diltiazem
   -Echo: symmetric left ventricular hypertrophy with preserved global and
   regional biventricular systolic function. Mild calcific aortic
   stenosis. Moderate pulmonary hypertension.
   # ? new RBBB: not seen on previous EKGs at [**Hospital1 5**] from [**2190**]
   - obtain old EKG from PCP
   [**Name Initial (PRE) **] echo as above
   #Anemia: trend HCT
   # Depression:
   - continue cymbalta
   # Seizure disorder:
   - seizure precautions
   - continue keppra
   # Recurrent UTIs: UA contaminated with epis in ED
   - repeat UA
culture negative
   # Hypercholesterolemia:
   - continue simvastatin
   # Seborrheic Dermatitis:
   - steroid cream
   FEN: no IVFs / replete lytes prn / taking full liquid diet
requires
   feeding and will desat while eating (b/c O2 off)
   PPX: therapeutic INR, bowel regimen, home PPI [**Hospital1 **]
   ACCESS: PIVs, RIJ
   CODE STATUS: DNI (confirmed with husband)- okay to resuscitate
   EMERGENCY CONTACT:
   DISPOSITION: ICU pending resolution
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-07-15 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -off dilt gtt, tolerated po dilt and continuing to load digoxin.  Will
   not change dilt dose until dig load completed. HR 90-100. Has
   rate-related RBBB
   -Off neo since 5 am with stable BP
   -O2 increased slightly to 60% FiO2--O2 sat [**Month (only) 453**] when pt is on side.
   Able to titrate down to 50%.
   -Given 1 dose of lasix 60 mg IV in the am. PM lytes with contraction,
   did not give additional dose
   -Given zyprexa 2.5 mg last night for trying to remove mask and
   confusion
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-7-14**] 08:15 PM
   Ceftriaxone - [**2192-7-14**] 10:16 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-7-14**] 11:17 AM
   Pantoprazole (Protonix) - [**2192-7-14**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-15**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.7
C (96.3
   HR: 83 (83 - 99) bpm
   BP: 124/51(67) {105/36(57) - 145/107(111)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
    CVP: 12 (3 - 12)mmHg
   Total In:
                                                                  1,128 mL
                                                                    190 mL
   PO:
                                                                    560 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    568 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,433 mL
                                                                    180 mL
   Urine:
                                                                  1,433 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -305 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t)
   Diaphoretic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Extremities: Right: 1+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   8.1 g/dL
   97 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   13 mg/dL
   103 mEq/L
   143 mEq/L
   25.7 %
   14.9 K/uL
        [image002.jpg]
                             [**2192-7-13**]  03:31 AM
                             [**2192-7-13**]  03:35 AM
                             [**2192-7-13**]  04:50 PM
                             [**2192-7-14**]  03:42 AM
                             [**2192-7-14**]  04:53 PM
                             [**2192-7-15**]  04:59 AM
   WBC
   24.6
   21.8
   14.9
   Hct
   29.9
   29.1
   25.7
   Plt
   [**Telephone/Fax (3) 7365**]
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   TropT
   0.02
   TCO2
   31
   Glucose
   112
   98
   114
   121
   97
   Other labs: PT / PTT / INR:26.3/74.4/2.5, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-07-15 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia and CHF
   24 Hour Events:
   Transitioned to po diltiazem yesterday and completed digoxin load. Off
   pressors since 5am yestarday. Desat when turned to L side overnight.
   Attempted lasix diuresis yesterday. Also with some mild nighttime
   sundowning- received one-time dose of Zyprexa.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-7-14**] 08:15 PM
   Ceftriaxone - [**2192-7-14**] 10:16 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-7-14**] 11:17 AM
   Pantoprazole (Protonix) - [**2192-7-14**] 08:50 PM
   Other medications:
   diltiazem 30 qid, digoxin 0.125 qd, Senna, Zocor, Lyrica, Protonix,
   cymbalta, Keppra, atrovent, albuterol nebs, Colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-15**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 83 (80 - 98) bpm
   BP: 127/32(54) {108/32(54) - 145/107(111)} mmHg
   RR: 31 (17 - 31) insp/min
   SpO2: 87%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
   CVP: 4 (3 - 12)mmHg
   Total In:
                                                                  1,128 mL
                                                                    583 mL
   PO:
                                                                    560 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    568 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  1,433 mL
                                                                    270 mL
   Urine:
                                                                  1,433 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -305 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   FiO2: 40%
   SpO2: 91%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : ,
   Wheezes : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): name,
   place, year, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   238 K/uL
   97 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.9 mEq/L
   13 mg/dL
   103 mEq/L
   143 mEq/L
   26.9 %
   14.9 K/uL
        [image002.jpg]
                             [**2192-7-13**]  03:31 AM
                             [**2192-7-13**]  03:35 AM
                             [**2192-7-13**]  04:50 PM
                             [**2192-7-14**]  03:42 AM
                             [**2192-7-14**]  04:53 PM
                             [**2192-7-15**]  04:59 AM
                             [**2192-7-15**]  07:14 AM
   WBC
   24.6
   21.8
   14.9
   Hct
   29.9
   29.1
   25.7
   26.9
   Plt
   [**Telephone/Fax (3) 7365**]
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   TropT
   0.02
   TCO2
   31
   Glucose
   112
   98
   114
   121
   97
   Other labs: PT / PTT / INR:26.3/74.4/2.5, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.4 mg/dL
   Imaging: CXR ([**7-15**])- increased L effusion, poss perihilar edema, RML
   infiltrate
   Echo ([**7-14**])- mild AS, EF > 55%, TR gradient 39
   Microbiology: Sputum ([**7-13**])- GPCs and GNRs
   Assessment and Plan
   # Sepis secondary to Pneumonia:
   -Continue ceftriaxone and levofloxacin x 8 days
   -Standing nebs
   -F/U cultures
   -BP stable off pressors
   -DNI
   #Hypoxia- multifactorial and related to resolving pna and possible
   fluid overload, possible COPD
   -pna tx as above
   -diuresis today, goal neg 500 to 1000/day
   -albuterol and ipratropium nebs for now
   -will need eventual PFTs
   # Atrial fibrillation:
   -on po dilt and digoxin now
   -follow lytes
   -resume coumadin at lower dose today given concurrent ABX therapy
   ICU Care
   Nutrition:
   Comments: tolerating po
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :ICU
   Total time spent: 30 minutes

2192-07-16 05:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - increased diltiazem to 45 mg QID
   - IV lasix 80 mg x 1 in AM and lasix 60 mg x 1 in PM -- I/O -1.8 L
   - started coumadin 2 mg
   - O2 weaned to FiO2 40%
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-7-14**] 08:15 PM
   Ceftriaxone - [**2192-7-15**] 08:23 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-7-15**] 08:22 PM
   Furosemide (Lasix) - [**2192-7-15**] 08:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-16**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 66 (64 - 96) bpm
   BP: 126/42(63) {118/25(47) - 152/56(76)} mmHg
   RR: 21 (16 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
    CVP: 4 (3 - 4)mmHg
   Total In:
                                                                  1,073 mL
                                                                     58 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    353 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    810 mL
   Urine:
                                                                  2,850 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,777 mL
                                                                   -752 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Extremities: Right: 1+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   8.1 g/dL
   97 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.5 mEq/L
   12 mg/dL
   98 mEq/L
   139 mEq/L
   26.9 %
   14.9 K/uL
        [image002.jpg]
                             [**2192-7-13**]  03:31 AM
                             [**2192-7-13**]  03:35 AM
                             [**2192-7-13**]  04:50 PM
                             [**2192-7-14**]  03:42 AM
                             [**2192-7-14**]  04:53 PM
                             [**2192-7-15**]  04:59 AM
                             [**2192-7-15**]  07:14 AM
                             [**2192-7-15**]  04:58 PM
   WBC
   24.6
   21.8
   14.9
   Hct
   29.9
   29.1
   25.7
   26.9
   Plt
   [**Telephone/Fax (3) 7365**]
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   TropT
   0.02
   TCO2
   31
   Glucose
   112
   98
   114
   121
   97
   Other labs: PT / PTT / INR:26.3/74.4/2.5, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia.
   # Sepis secondary to Pneumonia:
   -f/u final sputum culture
gram stain with GPC/GPR but culture with OP
   flora
   -f/u blood culture
neg to date
   -continue ceftriaxone and levofloxacin x 8 days ([**7-19**] is last day)
   -standing nebs
increase frequency
   - off neosynephrine X 24 hours
   -Neg urine legionella Ag
   -CXR with increasing effusion and RML infiltrate
diurese 500 to 1 L
   with 80 IV Lasix X 1
   -Goal O2 88-92%
   # Atrial fibrillation / diastolic CHF:
   -dig load completed, starts daily dose today
   -diurese w/ IV lasix
goal neg 500-1L
   -[**Hospital1 **] lytes
   - off dilt gtt, doing well on po diltiazem
   -Echo: symmetric left ventricular hypertrophy with preserved global and
   regional biventricular systolic function. Mild calcific aortic
   stenosis. Moderate pulmonary hypertension.
   # ? new RBBB: not seen on previous EKGs at [**Hospital1 5**] from [**2190**]
   - obtain old EKG from PCP
   [**Name Initial (PRE) **] echo as above
   #Anemia: trend HCT
   # Depression:
   - continue cymbalta
   # Seizure disorder:
   - seizure precautions
   - continue keppra
   # Recurrent UTIs: UA contaminated with epis in ED
   - repeat UA
culture negative
   # Hypercholesterolemia:
   - continue simvastatin
   # Seborrheic Dermatitis:
   - steroid cream
   FEN: no IVFs / replete lytes prn / taking full liquid diet
requires
   feeding and will desat while eating (b/c O2 off)
   PPX: therapeutic INR, bowel regimen, home PPI [**Hospital1 **]
   ACCESS: PIVs, RIJ
   CODE STATUS: DNI (confirmed with husband)- okay to resuscitate
   EMERGENCY CONTACT:
   DISPOSITION: ICU pending resolution
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-07-16 11:16:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women with PNA, hotn, diastolic heart failure.  Has been doing
   well.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Levofloxacin - [**2192-7-14**] 08:15 PM
   Ceftriaxone - [**2192-7-15**] 08:23 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-7-15**] 08:22 PM
   Furosemide (Lasix) - [**2192-7-15**] 08:23 PM
   Other medications:
   cymbalta
   protonix
   lyrica
   simvastatin
   digoxin
   nystatin
   albuterol
   warfarin 2mg po qd
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-16**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98.1
   HR: 71 (60 - 96) bpm
   BP: 131/49(67) {111/25(47) - 152/87(81)} mmHg
   RR: 23 (16 - 29) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                  1,073 mL
                                                                    109 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    353 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    947 mL
   Urine:
                                                                  2,850 mL
                                                                    947 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,777 mL
                                                                   -839 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, sleepy
   Labs / Radiology
   8.3 g/dL
   289 K/uL
   115 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.1 mEq/L
   12 mg/dL
   98 mEq/L
   142 mEq/L
   28.1 %
   11.6 K/uL
        [image002.jpg]
                             [**2192-7-13**]  03:31 AM
                             [**2192-7-13**]  03:35 AM
                             [**2192-7-13**]  04:50 PM
                             [**2192-7-14**]  03:42 AM
                             [**2192-7-14**]  04:53 PM
                             [**2192-7-15**]  04:59 AM
                             [**2192-7-15**]  07:14 AM
                             [**2192-7-15**]  04:58 PM
                             [**2192-7-16**]  05:20 AM
   WBC
   24.6
   21.8
   14.9
   11.6
   Hct
   29.9
   29.1
   25.7
   26.9
   28.1
   Plt
   [**Telephone/Fax (3) 7392**]89
   Cr
   1.0
   0.9
   0.9
   0.9
   0.9
   0.9
   1.0
   TropT
   0.02
   TCO2
   31
   Glucose
   112
   98
   114
   121
   97
   115
   Other labs: PT / PTT / INR:25.2/43.0/2.4, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Ca++:8.3 mg/dL, Mg++:2.0
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   Somnolent this morining:  unclear if this related to hypercarbia - will
   check ABG
   Sepsis/PNA:  continue levo/CTX for 8 days
   acute on chronic diastolic heart failure:  can diurese as still might
   be slightly fluid overloaded
   COPD:  on standing nebs
   AF:  under control on dilt and dig
   coagulopathy:  improved
   anemia:  stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2192-07-17 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Patient was more somnolent during the day after receiving zofran.
   Zofran was discontinued.  Neurologic exam unchanged.  ABG without
   hypercarbia.  Improved throughout the day.
   - digoxin level came back elevated at 2.6 so this was discontinued.  In
   the morning patient had some asymptomatic bradycardia but this resolved
   quickly
   - CVP was transduced at 5 and the decision was made to hold on further
   diuresis.  She was subsequently bolused 250 cc normal saline for low
   urine output.
   - Overnight patient had worsening oxygen requirement and crackles.
   Received 80 mg IV lasix x 1
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-7-16**] 08:00 PM
   Levofloxacin - [**2192-7-16**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-7-17**] 03:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-17**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 92 (60 - 92) bpm
   BP: 149/59(79) {107/33(53) - 157/87(81)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 87%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
    CVP: 2 (2 - 8)mmHg
   Total In:
                                                                    689 mL
                                                                     70 mL
   PO:
   TF:
   IVF:
                                                                    689 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,136 mL
                                                                    910 mL
   Urine:
                                                                  1,136 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -447 mL
                                                                   -840 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 87%
   ABG: 7.40/64/221/38/12
   PaO2 / FiO2: 316
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: 2+ DP pulses
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Inspiratory Wheezes : )
   Extremities: Right: 1+, Left: 3+ edema
   Neurologic: AO x 1Neurologic: Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   306 K/uL
   8.5 g/dL
   100 mg/dL
   1.0 mg/dL
   38 mEq/L
   4.2 mEq/L
   14 mg/dL
   97 mEq/L
   142 mEq/L
   27.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2192-7-13**]  04:50 PM
                             [**2192-7-14**]  03:42 AM
                             [**2192-7-14**]  04:53 PM
                             [**2192-7-15**]  04:59 AM
                             [**2192-7-15**]  07:14 AM
                             [**2192-7-15**]  04:58 PM
                             [**2192-7-16**]  05:20 AM
                             [**2192-7-16**]  11:28 AM
                             [**2192-7-16**]  02:43 PM
                             [**2192-7-17**]  04:16 AM
   WBC
   21.8
   14.9
   11.6
   13.1
   Hct
   29.1
   25.7
   26.9
   28.1
   27.0
   Plt
   [**Telephone/Fax (3) 7415**]06
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   1.0
   1.0
   TCO2
   41
   41
   Glucose
   114
   121
   97
   115
   100
   Other labs: PT / PTT / INR:30.3/38.8/3.0, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia.
   Hypoxia: Likely [**2-20**] pneumonia compounded by fluid overload increased on
   AM CXR - very sensitive to even small fluid boluses in setting of known
   diastolic CHF and likely low albumin (last checked [**2190**]).
   - continue ceftriaxone and levofloxacin x 8 days ([**7-19**] is last day)
   - diuresis with IV lasix and po diamox
   - standing nebs, chest PT
   - check albumin, S&S to evaluate today
   - wean off O2 supplementation as tolerated with goal O2 88-92%
   - repeat CXR in AM
   Sepsis secondary to Pneumonia: Pt off neosynephrine >24 hours. Neg
   urine legionella Ag. Sputum Cx with sparse OP growth
   - f/u blood culture
neg to date
   - abx as above
   Atrial fibrillation / diastolic CHF:  Currently with volume overload.
   Bradycardia to 40s yesterday improved to 80s with decreased diltiazem
   and discontinuation of supratherapeutic digoxin which was started in
   the setting of acute decompensation.
   - monitor on tele
   - diurese w/ IV lasix and add diamox 250mg po bid with goal neg 500-1L,
   check lytes [**Hospital1 **]
   - cont diltiazem 30 mg QID
   - digoxin stopped
   ? new RBBB: not seen on previous EKGs at [**Hospital1 5**] from [**2190**]
   - monitor on tele
   - consider obtaining old EKG from PCP
   Altered mental status:  [**Month (only) 8**] have been related to her acute illness. ABG
   without hypercarbia. Now resolved.
   Anemia: trend HCT
   Depression:
   - continue cymbalta
   Seizure disorder:
   - seizure precautions
   - continue keppra
   Recurrent UTIs: UA contaminated with epis in ED
   - repeat urine cx negative
   Hypercholesterolemia:
   - continue simvastatin
   Seborrheic Dermatitis:
   - steroid cream
   ICU Care
   Nutrition: no IVFs / replete lytes prn / holding po pending speech and
   swallow evaluation
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT: Therapeutic INR
   Stress ulcer: home PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (confirmed with husband)- okay to resuscitate
   Disposition: ICU

2192-07-17 11:06:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women admitted with PNA and respiratory distress with pulmonary
   edema.  Received small bolus for low urine output and required increase
   in oxygen.  Received IV lasix with improvement
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-7-16**] 08:00 PM
   Levofloxacin - [**2192-7-16**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2192-7-17**] 03:37 AM
   Other medications:
   betamethasone
   cymbalta
   keppra
   lyrical
   simvastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-17**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 80 (63 - 93) bpm
   BP: 124/47(56) {107/33(53) - 157/59(79)} mmHg
   RR: 18 (17 - 28) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.8 kg (admission): 90 kg
   Height: 64 Inch
   CVP: 7 (2 - 8)mmHg
   Total In:
                                                                    689 mL
                                                                    109 mL
   PO:
   TF:
   IVF:
                                                                    689 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  1,136 mL
                                                                  1,380 mL
   Urine:
                                                                  1,136 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -447 mL
                                                                 -1,272 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 91%
   ABG: 7.40/64/221/38/12
   PaO2 / FiO2: 316
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   306 K/uL
   100 mg/dL
   1.0 mg/dL
   38 mEq/L
   4.2 mEq/L
   14 mg/dL
   97 mEq/L
   142 mEq/L
   27.0 %
   13.1 K/uL
        [image002.jpg]
                             [**2192-7-13**]  04:50 PM
                             [**2192-7-14**]  03:42 AM
                             [**2192-7-14**]  04:53 PM
                             [**2192-7-15**]  04:59 AM
                             [**2192-7-15**]  07:14 AM
                             [**2192-7-15**]  04:58 PM
                             [**2192-7-16**]  05:20 AM
                             [**2192-7-16**]  11:28 AM
                             [**2192-7-16**]  02:43 PM
                             [**2192-7-17**]  04:16 AM
   WBC
   21.8
   14.9
   11.6
   13.1
   Hct
   29.1
   25.7
   26.9
   28.1
   27.0
   Plt
   [**Telephone/Fax (3) 7415**]06
   Cr
   0.9
   0.9
   0.9
   0.9
   0.9
   1.0
   1.0
   TCO2
   41
   41
   Glucose
   114
   121
   97
   115
   100
   Other labs: PT / PTT / INR:30.3/38.8/3.0, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   respiratory distress:  pulmonary edema, still with crackles b/l
   continue diuresis.  Will give some diamox for the metabolic alkalosis
   HTN/AF: on dilt, INR therapeutic
   acute on chronic diastolic heart failure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Comments: will try and place peripheral IVs and d/c central line
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-07-18 05:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diuresed well to 80 of lasix IV x2 and started diamox.
   - Still requiring 100% aerosolized face mask. ABG on this was
   7.39/70/82
   - Speech and swallow started eval but patient again too somnolent
   (though much better than [**7-16**]) - Able to take pills with applesauce.
   - Thick secretions overnight -> sputum cx sent
   - Attempted placement of peripheral IVs to pull CVL, but only able to
   get one
   - Increased bowel regimen given only small stool output since admit
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Zofran (Injection) (Ondansetron Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2192-7-16**] 08:00 PM
   Ceftriaxone - [**2192-7-17**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-18**] 05:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 82 (71 - 94) bpm
   BP: 124/45(61) {100/32(52) - 157/71(87)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.8 kg (admission): 90 kg
   Height: 64 Inch
    CVP: 1 (1 - 7)mmHg
   Total In:
                                                                    290 mL
                                                                     50 mL
   PO:
   TF:
   IVF:
                                                                    290 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                    160 mL
   Urine:
                                                                  2,065 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,775 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.39/70/81.[**Numeric Identifier **]/39/13
   PaO2 / FiO2: 82
   Physical Examination
   General Appearance: Well nourished, NAD, opens eye to commands, but not
   following commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), Irreg irreg
   Peripheral Vascular: 2+ DP pulses
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Inspiratory Wheezes and rhonchi : )
   Abd: Soft but diffusely TTP
   Extremities: Right: 1+, Left: 3+ edema
   Neurologic: AO x 1, residual paralysis of L side
   Labs / Radiology
   375 K/uL
   8.4 g/dL
   108 mg/dL
   1.2 mg/dL
   39 mEq/L
   4.0 mEq/L
   16 mg/dL
   97 mEq/L
   143 mEq/L
   29.5 %
   12.8 K/uL
        [image002.jpg]
                             [**2192-7-15**]  07:14 AM
                             [**2192-7-15**]  04:58 PM
                             [**2192-7-16**]  05:20 AM
                             [**2192-7-16**]  11:28 AM
                             [**2192-7-16**]  02:43 PM
                             [**2192-7-17**]  04:16 AM
                             [**2192-7-17**]  11:11 AM
                             [**2192-7-17**]  05:21 PM
                             [**2192-7-17**]  08:02 PM
                             [**2192-7-18**]  02:59 AM
   WBC
   11.6
   13.1
   12.8
   Hct
   26.9
   28.1
   27.0
   29.5
   Plt
   [**Telephone/Fax (3) 7438**]
   Cr
   0.9
   1.0
   1.0
   1.0
   1.1
   1.2
   TCO2
   41
   41
   44
   Glucose
   115
   100
   118
   110
   108
   Other labs: PT / PTT / INR:40.5/40.6/4.3, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Albumin 2.8
   PT: 40.5
   PTT: 40.6
   INR: 4.3
   CXR with improved edema per my read.
   Assessment and Plan
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia.
   Hypoxia/PNA: Was septic on presentation transiently requiring
   neosynephrine. Persistence of hypoxia despite good diureses and abx.
   Question of shunt given pO2 82% on 100% FiO2. Has increased thick
   secretions with sats improved by suctioning. No fever, WBC stable
   - CT chest for better evaluation, repeat CXR in AM
   - Bubble study to evaluate for intracardiac shunt
   - continue ceftriaxone and levofloxacin x 8 days ([**7-19**] is last day)
   - cont diuresis and tx of high bicarb with diamox (change to IV)
   - f/u sputum cx for new thick secretions
   - standing nebs, chest PT
   - wean off O2 supplementation as tolerated with goal O2 88-92%
   Altered mental status:  Patient remains intermittently somnolent.
   Question of hypercarbic narcosis
   - recheck ABG today
   - switch diamox to IV due to concern re: absorption
   - will hold cymbalta and
   lyrica
   Constipation: Only small BM since admit
   - Increased bowel regimen to lactulose and biscodyl suppositories
   - Continue senna and colace
   Atrial fibrillation / diastolic CHF:  Diuresed well and Cr bumpe to
   1.2.  Rate remains controlled with decreased diltiazem and
   discontinuation of supratherapeutic digoxin which was started in the
   setting of acute decompensation.
   - monitor on tele
   - continue diamox
   - cont diltiazem 30 mg QID
   - digoxin stopped
   Anemia: trend HCT
   Depression:
   - hold cymbalta
   Seizure disorder:
   - seizure precautions
   - continue keppra
   Recurrent UTIs: UA contaminated with epis in ED
   - repeat urine cx negative
   Hypercholesterolemia:
   - continue simvastatin
   Seborrheic Dermatitis:
   - steroid cream
   ICU Care
   Nutrition: Nutrition c/s, place NGT
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   22 Gauge - [**2192-7-17**] 02:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition:ICU

2192-07-18 09:00:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women with respiratory distress, PNA and pulmonary edema.
   Patient vigorously suctioned and also diuresed overnight.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Zofran (Injection) (Ondansetron Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Levofloxacin - [**2192-7-16**] 08:00 PM
   Ceftriaxone - [**2192-7-17**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   keppra
   zocor
   senna
   albuterol
   dilt
   diamox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-18**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.8
C (96.5
   HR: 81 (71 - 94) bpm
   BP: 122/37(137) {93/27(44) - 142/71(137)} mmHg
   RR: 19 (18 - 27) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.8 kg (admission): 90 kg
   Height: 64 Inch
   CVP: 3 (1 - 7)mmHg
   Total In:
                                                                    290 mL
                                                                     86 mL
   PO:
   TF:
   IVF:
                                                                    290 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  2,065 mL
                                                                    225 mL
   Urine:
                                                                  2,065 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,775 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.39/70/81.[**Numeric Identifier **]/39/13
   PaO2 / FiO2: 103
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed, somnolent, but follows commands
   Labs / Radiology
   8.4 g/dL
   375 K/uL
   108 mg/dL
   1.2 mg/dL
   39 mEq/L
   4.0 mEq/L
   16 mg/dL
   97 mEq/L
   143 mEq/L
   29.5 %
   12.8 K/uL
        [image002.jpg]
                             [**2192-7-15**]  07:14 AM
                             [**2192-7-15**]  04:58 PM
                             [**2192-7-16**]  05:20 AM
                             [**2192-7-16**]  11:28 AM
                             [**2192-7-16**]  02:43 PM
                             [**2192-7-17**]  04:16 AM
                             [**2192-7-17**]  11:11 AM
                             [**2192-7-17**]  05:21 PM
                             [**2192-7-17**]  08:02 PM
                             [**2192-7-18**]  02:59 AM
   WBC
   11.6
   13.1
   12.8
   Hct
   26.9
   28.1
   27.0
   29.5
   Plt
   [**Telephone/Fax (3) 7438**]
   Cr
   0.9
   1.0
   1.0
   1.0
   1.1
   1.2
   TCO2
   41
   41
   44
   Glucose
   115
   100
   118
   110
   108
   Other labs: PT / PTT / INR:40.5/40.6/4.3, CK / CKMB /
   Troponin-T:246/3/0.02, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Respiratory distress:  still hypoxemic.  CXR shows today LLL collapse
   versus effusion.  Will get chest CT to assess effusion versus
   collapse.  echo with bubble study to r/o shunt
   Hypercarbic respiratory failure:  metabolic alkalosis likely due to
   respiratory acidosis and contraction.  Will treat contraction component
   with diamox.
   Will give diamox 500mg [**Hospital1 **] IV.
   AF:  well controlled on dilt
   NGT for meds and nutrition
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   22 Gauge - [**2192-7-17**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-07-19 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2192-7-18**] 01:27 PM
   - INR supratherapeutic - coumadin held.
   - CVL kept in place as unable to proceed with PICC.
   - Concern for shunt given pO2 80s on FiO2 100%. CT chest on prelim read
   showed significant atelectasis with mild improvement in consolidations.
   Bubble study: no intracardiac shunt is suggested with intravenous
   saline contrast at rest x 2 (patient unable to cooperate with
   maneuvers).
   - Sputum sample sent but contaminated.
   - NG tube placed, ok to use. Tube feeds started.
   - Increasing diffuse rash over neck, torso. Concern for drug rash given
   PCN allergy so ceftriaxone discontinued.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Zofran (Injection) (Ondansetron Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-7-17**] 08:00 PM
   Levofloxacin - [**2192-7-18**] 09:13 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-19**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 84 (75 - 99) bpm
   BP: 92/32(47) {86/27(44) - 133/51(137)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.8 kg (admission): 90 kg
   Height: 64 Inch
    CVP: 6 (1 - 14)mmHg
   Total In:
                                                                    724 mL
                                                                    322 mL
   PO:
   TF:
                                                                    218 mL
                                                                    197 mL
   IVF:
                                                                    341 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    105 mL
   Urine:
                                                                    495 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    229 mL
                                                                    217 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///39/
   Physical Examination
   General Appearance: Well nourished, NAD, opens eye to commands, but not
   following commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), Irreg irreg
   Peripheral Vascular: 2+ DP pulses
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Inspiratory Wheezes and rhonchi : )
   Abd: Soft but diffusely TTP
   Extremities: Right: 1+, Left: 3+ edema
   Neurologic: AO x 1, residual paralysis of L side
   Labs / Radiology
   372 K/uL
   8.4 g/dL
   112 mg/dL
   1.0 mg/dL
   39 mEq/L
   3.4 mEq/L
   19 mg/dL
   98 mEq/L
   143 mEq/L
   29.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2192-7-15**]  04:58 PM
                             [**2192-7-16**]  05:20 AM
                             [**2192-7-16**]  11:28 AM
                             [**2192-7-16**]  02:43 PM
                             [**2192-7-17**]  04:16 AM
                             [**2192-7-17**]  11:11 AM
                             [**2192-7-17**]  05:21 PM
                             [**2192-7-17**]  08:02 PM
                             [**2192-7-18**]  02:59 AM
                             [**2192-7-19**]  04:51 AM
   WBC
   11.6
   13.1
   12.8
   13.1
   Hct
   28.1
   27.0
   29.5
   29.3
   Plt
   [**Telephone/Fax (3) 7474**]72
   Cr
   0.9
   1.0
   1.0
   1.0
   1.1
   1.2
   1.0
   TCO2
   41
   41
   44
   Glucose
   115
   100
   118
   110
   108
   112
   Other labs: PT / PTT / INR:40.5/40.6/4.3, CK / CKMB /
   Troponin-T:246/3/0.02, Differential-Neuts:78.8 %, Lymph:10.8 %,
   Mono:7.2 %, Eos:2.8 %, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Sputum sample insufficient for cx
   CT Chest:  Per Pre-lim report, increased atalectasis likely from mucous
   plugging, but not significant enough for bronch.
   ECHO with Bubble study: No intracardiac shunt is suggested with
   intravenous saline contrast at rest x 2 (patient unable to cooperate
   with maneuvers). There is mild symmetric left ventricular hypertrophy
   with normal cavity size and global systolic function (LVEF>55%).
   Assessment and Plan
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia.
   Hypoxia/PNA: Was septic on presentation transiently requiring
   neosynephrine. Persistence of hypoxia despite good diureses and abx.
   Question of shunt given pO2 82% on 100% FiO2 yesterday. Has increased
   thick secretions with sats improved by suctioning. No fever, WBC
   elevated but stable.  Bubble study without intracardiac shunt.  CT
   chest showed small bilateral pleural effusions and thick secretions.
   Patient improves with frequent suction and has very weak cough.
   - now completed course of antibiotics for pneumonia
   - continue acetazolamide for elevated bicarbonate
   - repeat sputum cx
   - standing nebs, chest PT
   - wean off O2 supplementation as tolerated with goal O2 88-92%
   - will try to get out of bed to chair today
   - I/O goal even today
   Rash:  Concerning for drug rash.  Patient has allergies to both
   penicillins and sulfa drugs.  Ceftriaxone discontinued by lasix and
   acetazolamide continued for now.
   - monitor rash
   - consider switching to non-sulfa containing diuretics if worsens
   Altered mental status:  Patient remains intermittently somnolent and
   now delerious.  No evidence of elevated CO2.  She does have a history
   of partial complex seizures for which she takes Keppra.
   - continue diamox IV
   - hold cymbalta and
   lyrica
   - EEG today given delerium
   Constipation: Only small BM since admit
   - Increased bowel regimen to lactulose and biscodyl suppositories
   - Continue senna and colace
   Atrial fibrillation / diastolic CHF:  Diuresed well and Cr bumped to
   1.2.  Rate remains controlled with decreased diltiazem and
   discontinuation of supratherapeutic digoxin which was started in the
   setting of acute decompensation.
   - monitor on tele
   - continue diamox
   - cont diltiazem 30 mg QID
   - digoxin stopped
   Anemia: trend HCT
   Depression:
   - hold cymbalta due to AMS
   Seizure disorder:
   - seizure precautions
   - continue keppra
   Recurrent UTIs: UA contaminated with epis in ED
   - repeat urine cx negative
   Hypercholesterolemia:
   - continue simvastatin
   Seborrheic Dermatitis:
   - steroid cream
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-7-18**] 02:25 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   22 Gauge - [**2192-7-17**] 02:00 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNI
   Disposition: ICU

2192-07-19 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo women with pneumonia and pulmomary edema.  Continued intermittent
   somnolence.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2192-7-18**] 01:27 PM
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Zofran (Injection) (Ondansetron Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-7-17**] 08:00 PM
   Levofloxacin - [**2192-7-18**] 09:13 PM
   Infusions:
   Other ICU medications:
   Other medications:
   keppra
   simvastatin
   senna
   levoflox
   nystatin
   cardizem
   acetozolamide
   prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2192-7-19**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 86 (78 - 99) bpm
   BP: 104/81(86) {86/28(44) - 133/81(86)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.8 kg (admission): 90 kg
   Height: 64 Inch
   CVP: 4 (1 - 14)mmHg
   Total In:
                                                                    725 mL
                                                                    702 mL
   PO:
   TF:
                                                                    219 mL
                                                                    295 mL
   IVF:
                                                                    341 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    160 mL
   Urine:
                                                                    495 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    230 mL
                                                                    542 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///39/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l), poor cough
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Rash: maculopapular
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more awake but
   completely disoriented
   Labs / Radiology
   8.4 g/dL
   372 K/uL
   112 mg/dL
   1.0 mg/dL
   39 mEq/L
   3.4 mEq/L
   19 mg/dL
   98 mEq/L
   143 mEq/L
   29.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2192-7-15**]  04:58 PM
                             [**2192-7-16**]  05:20 AM
                             [**2192-7-16**]  11:28 AM
                             [**2192-7-16**]  02:43 PM
                             [**2192-7-17**]  04:16 AM
                             [**2192-7-17**]  11:11 AM
                             [**2192-7-17**]  05:21 PM
                             [**2192-7-17**]  08:02 PM
                             [**2192-7-18**]  02:59 AM
                             [**2192-7-19**]  04:51 AM
   WBC
   11.6
   13.1
   12.8
   13.1
   Hct
   28.1
   27.0
   29.5
   29.3
   Plt
   [**Telephone/Fax (3) 7474**]72
   Cr
   0.9
   1.0
   1.0
   1.0
   1.1
   1.2
   1.0
   TCO2
   41
   41
   44
   Glucose
   115
   100
   118
   110
   108
   112
   Other labs: PT / PTT / INR:46.0/39.4/4.9, CK / CKMB /
   Troponin-T:246/3/0.02, Differential-Neuts:78.8 %, Lymph:10.8 %,
   Mono:7.2 %, Eos:2.8 %, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Hypoxemia:  continued hypoxemia.  CT with largely atelectasis.  needs
   better pulmonary toilette.  Get up to a chair today.
   hypercarbic respiratory failure:  on diamox
   altered mental status:  Getting EEG to r/o simple complex seizures.
   bowel regimen
   rash:  drug rash, stop CTX
   access:  Will give FFP for line
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-7-19**] 07:41 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   22 Gauge - [**2192-7-17**] 02:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-07-20 06:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2192-7-19**] 10:54 AM
   - ceftriaxone and levofloxacin discontinued as patient had completed
   full course for pneumonia
   - ABG with stable hypercarbia with normal pH
   - continues on diamox for elevated bicarbonate
   - EEG this afternoon with widespread encephalopathy
   - Unable to obtain PICC secondary to elevated INR
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Zofran (Injection) (Ondansetron Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-7-17**] 08:00 PM
   Levofloxacin - [**2192-7-18**] 09:13 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-20**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 81 (73 - 94) bpm
   BP: 103/38(55) {81/28(40) - 119/85(88)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.8 kg (admission): 90 kg
   Height: 64 Inch
    CVP: 8 (4 - 17)mmHg
   Total In:
                                                                  1,715 mL
                                                                    425 mL
   PO:
   TF:
                                                                    798 mL
                                                                    252 mL
   IVF:
                                                                    367 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                    290 mL
                                                                     90 mL
   Urine:
                                                                    290 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,425 mL
                                                                    336 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.39/62/63/35/9
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished, NAD, opens eye to commands, but not
   following commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), Irreg irreg
   Peripheral Vascular: 2+ DP pulses
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Inspiratory Wheezes and rhonchi : )
   Abd: Soft but diffusely TTP
   Extremities: Right: 1+, Left: 3+ edema
   Neurologic: AO x 1, residual paralysis of L side
   Labs / Radiology
   408 K/uL
   8.4 g/dL
   124 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.1 mEq/L
   18 mg/dL
   100 mEq/L
   142 mEq/L
   29.4 %
   13.7 K/uL
        [image002.jpg]
                             [**2192-7-16**]  11:28 AM
                             [**2192-7-16**]  02:43 PM
                             [**2192-7-17**]  04:16 AM
                             [**2192-7-17**]  11:11 AM
                             [**2192-7-17**]  05:21 PM
                             [**2192-7-17**]  08:02 PM
                             [**2192-7-18**]  02:59 AM
                             [**2192-7-19**]  04:51 AM
                             [**2192-7-19**]  12:27 PM
                             [**2192-7-20**]  03:25 AM
   WBC
   13.1
   12.8
   13.1
   13.7
   Hct
   27.0
   29.5
   29.3
   29.4
   Plt
   [**Telephone/Fax (3) 7501**]08
   Cr
   1.0
   1.0
   1.1
   1.2
   1.0
   1.0
   TCO2
   41
   41
   44
   39
   Glucose
   100
   118
   110
   108
   112
   124
   Other labs: PT / PTT / INR:39.4/37.5/4.1, CK / CKMB /
   Troponin-T:246/3/0.02, Differential-Neuts:78.8 %, Lymph:10.8 %,
   Mono:7.2 %, Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Imaging: EEG [**2192-7-19**]: Abnormal portable EEG due to the disorganized and
   slow
   background throughout. This indicates a widespread encephalopathy.
   Medications, metabolic disturbances, and infection are among the most
   common causes. There were no areas of prominent focal slowing, but
   encephalopathies may obscure focal findings. There were no epileptiform
   features.
   Chest CT [**2192-7-18**]: Increased small bilateral pleural effusions and
   worsening bilateral lower lobe and lingular atelectasis. Airway
   secretions as described.
   Echocardiogram [**2192-7-18**]: The left atrium is elongated. No intracardiac
   shunt is suggested with intravenous saline contrast at rest x 2
   (patient unable to cooperate with maneuvers). There is mild symmetric
   left ventricular hypertrophy with normal cavity size and global
   systolic function (LVEF>55%). Due to suboptimal technical quality, a
   focal wall motion abnormality cannot be fully excluded. Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve is not well seen. The mitral valve appears structurally normal
   with trivial mitral regurgitation. There is mild pulmonary artery
   systolic hypertension. There is an anterior space which most likely
   represents a fat pad.
   Microbiology: [**2192-7-18**]: Sputum sample contaminated
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ATRIAL FIBRILLATION (AFIB)
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia.
   Altered Mental Status: patient had waxing and [**Doctor Last Name 226**] alertness early in
   hospital course, but now only AOx0-1.  We have hel
   Altered mental status:  Patient remains intermittently somnolent and
   now delerious.  No evidence of elevated CO2.  She does have a history
   of partial complex seizures for which she takes Keppra, but EEG showed
   widespread encephalopathy without focal seizures.
   - continue diamox IV
   - hold cymbalta and
   lyrica
   - Consider Head CT
   Hypoxia/PNA: Was septic on presentation transiently requiring
   neosynephrine. Persistence of hypoxia despite good diureses and abx.
   Question of shunt given pO2 82% on 100% FiO2 yesterday. Has increased
   thick secretions with sats improved by suctioning. No fever, WBC
   elevated but stable.  Bubble study without intracardiac shunt.  CT
   chest showed small bilateral pleural effusions and thick secretions.
   Patient improves with frequent suction and has very weak cough.
   - now completed course of antibiotics for pneumonia
   - continue acetazolamide for elevated bicarbonate
   - standing nebs, chest PT
   - wean off O2 supplementation as tolerated with goal O2 88-92%
   - will try to get out of bed to chair today
   - I/O goal even today
   Rash:  Concerning for drug rash.  Patient has allergies to both
   penicillins and sulfa drugs.  Ceftriaxone discontinued but
   acetazolamide continued for now.
   - monitor rash
   - consider switching to non-sulfa containing diuretics if worsens
   Constipation: Only small BM since admit
   - Increased bowel regimen to lactulose and biscodyl suppositories
   - Continue senna and colace
   Atrial fibrillation / diastolic CHF:  Diuresed well and Cr bumped to
   1.2.  Rate remains controlled with decreased diltiazem and
   discontinuation of supratherapeutic digoxin which was started in the
   setting of acute decompensation.
   - monitor on tele
   - continue diamox
   - cont diltiazem 30 mg QID
   - digoxin stopped
   Anemia: trend HCT
   Depression:
   - hold cymbalta due to AMS
   Seizure disorder:
   - seizure precautions
   - continue keppra
   Recurrent UTIs: UA contaminated with epis in ED
   - repeat urine cx negative
   Hypercholesterolemia:
   - continue simvastatin
   Seborrheic Dermatitis:
   - steroid cream
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-7-19**] 09:05 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNI
   Disposition: ICU

2192-07-20 10:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - D/C'ed ctx and levo s/p course for PNA
   - EEG with widespread encelopathy, no seizures
   - PICC deferred [**2-20**] elevated INR
   - Persistent delerium
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamides)
   Unknown;
   Erythromycin Ethylsuccinate
   Unknown;
   Zithromax (Oral) (Azithromycin)
   Abdominal pain;
   Zofran (Injection) (Ondansetron Hcl/Pf)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2192-7-17**] 08:00 PM
   Levofloxacin - [**2192-7-18**] 09:13 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-7-20**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 84 (73 - 94) bpm
   BP: 109/39(54) {81/28(40) - 119/85(88)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110.8 kg (admission): 90 kg
   Height: 64 Inch
   CVP: 8 (4 - 17)mmHg
   Total In:
                                                                  1,716 mL
                                                                    736 mL
   PO:
   TF:
                                                                    799 mL
                                                                    405 mL
   IVF:
                                                                    367 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                    290 mL
                                                                    135 mL
   Urine:
                                                                    290 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,426 mL
                                                                    601 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.39/62/63/35/9
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   408 K/uL
   124 mg/dL
   1.0 mg/dL
   35 mEq/L
   3.1 mEq/L
   18 mg/dL
   100 mEq/L
   142 mEq/L
   29.4 %
   13.7 K/uL
        [image002.jpg]
                             [**2192-7-16**]  11:28 AM
                             [**2192-7-16**]  02:43 PM
                             [**2192-7-17**]  04:16 AM
                             [**2192-7-17**]  11:11 AM
                             [**2192-7-17**]  05:21 PM
                             [**2192-7-17**]  08:02 PM
                             [**2192-7-18**]  02:59 AM
                             [**2192-7-19**]  04:51 AM
                             [**2192-7-19**]  12:27 PM
                             [**2192-7-20**]  03:25 AM
   WBC
   13.1
   12.8
   13.1
   13.7
   Hct
   27.0
   29.5
   29.3
   29.4
   Plt
   [**Telephone/Fax (3) 7501**]08
   Cr
   1.0
   1.0
   1.1
   1.2
   1.0
   1.0
   TCO2
   41
   41
   44
   39
   Glucose
   100
   118
   110
   108
   112
   124
   Other labs: PT / PTT / INR:39.4/37.5/4.1, CK / CKMB /
   Troponin-T:246/3/0.02, Differential-Neuts:78.8 %, Lymph:10.8 %,
   Mono:7.2 %, Eos:2.8 %, Lactic Acid:1.0 mmol/L, Albumin:2.8 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   78 y.o. F with hypertension, atrial fibrillation on coumadin, recurrent
   UTIs on suppressive therapy, s/p CVA with residual L sided weakness,
   who presents with reported fever and shortness of breath, likely
   pneumonia.
   Altered mental status:  Patient remains intermittently somnolent and
   now delerious.  No evidence of elevated CO2.  She does have a history
   of partial complex seizures for which she takes Keppra, but EEG showed
   widespread encephalopathy without focal seizures.
   - hold cymbalta and
   lyrica
   - Consider Head CT
   Hypoxia/PNA: Was septic on presentation transiently requiring
   neosynephrine. Persistence of hypoxia despite good diureses and abx.
   Question of shunt given pO2 82% on 100% FiO2 yesterday. Has increased
   thick secretions with sats improved by suctioning. No fever, WBC
   elevated but stable.  Bubble study without intracardiac shunt.  CT
   chest showed small bilateral pleural effusions and thick secretions.
   Patient improves with frequent suction and has very weak cough.
   - now completed course of antibiotics for pneumonia
   - continue acetazolamide for elevated bicarbonate
   - standing nebs, chest PT
   - wean off O2 supplementation as tolerated with goal O2 88-92%
   - will try to get out of bed to chair today
   - I/O goal even today
   Rash:  Concerning for drug rash.  Patient has allergies to both
   penicillins and sulfa drugs.  Ceftriaxone discontinued but
   acetazolamide continued for now.
   - monitor rash
   - consider switching to non-sulfa containing diuretics if worsens
   Constipation: Only small BM since admit
   - Increased bowel regimen to lactulose and biscodyl suppositories
   - Continue senna and colace
   Atrial fibrillation / diastolic CHF:  Diuresed well and Cr bumped to
   1.2.  Rate remains controlled with decreased diltiazem.  Digoxin has
   been discontinued as it was started in the setting of acute
   decompensation.
   - monitor on tele
   - continue diamox
   - cont diltiazem 30 mg QID
   Anemia: trend HCT
   Depression:
   - hold cymbalta due to AMS
   Seizure disorder: EEG with widespread encephalopathy.
   - seizure precautions
   - continue keppra
   Recurrent UTIs: UA contaminated with epis in ED
   - repeat urine cx negative
   Hypercholesterolemia:
   - continue simvastatin
   Seborrheic Dermatitis:
   - steroid cream
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2192-7-20**] 08:12 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-7-13**] 04:56 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 25 minutes